US07732612B2
4-(1-cyano-2-hydroxy-ethylidene)-piperidine-1-carboxylic acid tert-butyl ester (279).
To a solution of 2,6-diphenylphenol (10.5 g, 42 mmol) in 60 mL CH2Cl2 at room temperature was added AlMe3 (2.0 M in hexane, 10.5 mL, 21 mmol). Gas evolution was observed and the mixture was stirred at room temperature for 30 min. The solution was cooled to 0° C. and 1,3,5-trioxane (630 mg, 7 mmol) in 6 mL CH2Cl2 was added dropwise and the solution was stirred for 1 h. In a separate flask 4-(bromo-cyano-methylidene)-piperidine-1-carboxylic acid tert-butyl ester (2.1 g, 7 mmol) was dissolved in 20 mL THF at −40° C. and to this solution was added isopropylmagnesium bromide (1M in THF, 8.4 mL, 8.4 mmol) dropwise. The mixture was stirred at −40° C. to −30° C. for 1.5 h. The above freshly prepared Grignard reagent was added dropwise to the formaldehyde solution and the mixture was stirred at 0° C. for 1 h. Water was carefully added and the mixture was extracted with ethyl acetate. Purification by chromatography (EtOAc/hexanes=1:1) yielded the title compound (800 mg, 45%) as a white solid. MS 253 (M+H).

reactant | 2,6-diphenylphenol | 42 mmol, 10.5 g | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)O | C18H14O
reactant | AlMe3 | 21 mmol, 2.0 M, 10.5 mL | C[Al](C)C
reactant | 1,3,5-trioxane | 7 mmol, 630 mg | O1COCOC1 | C3H6O3
reactant | 4-(bromo-cyano-methylidene)-piperidine-1-carboxylic acid tert-butyl ester | 7 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C#N)Br | C12H17BrN2O2
reactant | isopropylmagnesium bromide | 8.4 mmol, 1M, 8.4 mL | C(C)(C)[Mg]Br
reactant | formaldehyde | C=O | CH2O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 4-(1-cyano-2-hydroxy-ethylidene)-piperidine-1-carboxylic acid tert-butyl ester | 800 mg, 45% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(CO)C#N | C13H20N2O3
